US03939166
4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole is reacted with 2-octyn-1-ylamine to obtain 4-(2-octyn-1ylamino)-7-nitro-2,5-bis(trifluoromethyl)benzimidazole, m.w., 422.3.

reactant | 4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H2ClF6N3O2
reactant | 2-octyn-1-ylamine | C(C#CCCCCC)N | C8H15N
product | 4-(2-octyn-1ylamino)-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | C(C#CCCCCC)NC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C17H16F6N4O2
